* SPICE3 file created from avsd_opamp_layout.ext - technology: sky130A

.lib "../../skywater_pdk/sky130_fd_pr/models/sky130.lib.spice" tt

X0 a_181_n17# in1 a_n28_306# vss sky130_fd_pr__nfet_01v8 w=1.79 l=1.00
X1 vss a_n292_n2092# out2 vss sky130_fd_pr__nfet_01v8 w=62.89 l=1.00
X2 vss a_n292_n2092# a_n292_n2092# vss sky130_fd_pr__nfet_01v8 w=10.01 l=1.00
X3 out2 a_582_n17# vdd vdd sky130_fd_pr__pfet_01v8 w=62.89 l=1.00
X4 a_n516_n998# vdd vss sky130_fd_pr__res_generic_nd w=27 l=2492
X5 a_582_n17# a_n28_306# vdd vdd sky130_fd_pr__pfet_01v8 w=10.01 l=1.00
X6 vdd a_n28_306# a_n28_306# vdd sky130_fd_pr__pfet_01v8 w=10.01 l=1.00
X7 a_582_n17# in2 a_181_n17# vss sky130_fd_pr__nfet_01v8 w=1.79 l=1.00
X8 a_n292_n2092# a_n368_n1009# vss sky130_fd_pr__res_generic_nd w=26 l=2494
X9 a_n368_n1009# a_n440_1511# vss sky130_fd_pr__res_generic_nd w=27 l=2492
X10 a_n516_n998# a_n440_1511# vss sky130_fd_pr__res_generic_nd w=27 l=2492
X11 vss a_n292_n2092# a_181_n17# vss sky130_fd_pr__nfet_01v8 w=20.02 l=1.00

C0 vss vss 3.31fF
C1 a_n292_n2092# vss 5.57fF
C2 a_n368_n1009# vss 3.47fF
C3 vdd vss 124.25fF


* Circuit Bias
v1  vdd gnd dc 1
v2  vss gnd dc -1

v3 in1 gnd ac 1
v4 in2 gnd dc 0

*Simulation Command
.ac dec 101 1 1g

* ngspice control statements
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot db(V(out2)/V(in1))
plot 180/PI*phase(v(out2))

let gain = db(V(out2)/V(in1))
let phase = 180/PI*phase(v(out2))

let max_gain = maximum(gain)
print max_gain

print gain > gain_values.txt
print phase > phase_values.txt

.endc

.end
